US07642356B2
Preparation of ethyl 3-(2,6-dichloro-5-fluoro-3-pyridyl)-3-oxopropanoate
To 100 □ of 1,2-dichloroethane were added 10 g of 2,6-dichloro-5-fluoro-3-cyanopyridine, 3.6 g of zinc chloride, and 11 g of potassium ethylmalonate, and then the mixture was stirred at reflux. After the reaction was completed, 50 □ of 6 N hydrochloric acid was added to the mixture, which then was stirred at reflux at 90° C. for 4 hours. After confirming completion of the reaction by TLC, the solution was cooled to 20° C., and then an organic layer was separated therefrom. The organic layer was dried through distillation under reduced pressure, and 50 □ of a mixed solvent of ethanol and water ( 7:3, v/v ) was added thereto. Then, the reactor was cooled to 0˜10° C., and was stirred for 1 hour. The resulting solid was filtered and washed with 25 □ of a mixed solvent of ethanol and water ( 7:3, v/v ) having the same temperature, to obtain the title compound in the yield of 80% (11.7 g)

reactant | 2,6-dichloro-5-fluoro-3-cyanopyridine | 10 g | ClC1=NC(=C(C=C1C#N)F)Cl | C6HCl2FN2
reactant | potassium ethylmalonate | 11 g | C(C)C(C(=O)[O-])C(=O)[O-].[K+].[K+]
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
catalyst | zinc chloride | 3.6 g | [Cl-].[Zn+2].[Cl-]
product | ethyl 3-(2,6-dichloro-5-fluoro-3-pyridyl)-3-oxopropanoate | yield of 80% | ClC1=NC(=C(C=C1C(CC(=O)OCC)=O)F)Cl | C10H8Cl2FNO3
